US06423717B1
Naphthalene-2-sulfonic Acid [3-(4-Methylpiperazin-1-yl)phenyl]amide (E132)
The title compound (E132) was prepared from 3-(4-methylpiperazin-1-yl)benzenamine and naphthalene-2-sulfonyl chloride according to the method of Example 1 MH+=382.

reactant | 3-(4-methylpiperazin-1-yl)benzenamine | CN1CCN(CC1)C=1C=C(C=CC1)N | C11H17N3
reactant | naphthalene-2-sulfonyl chloride | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
product | Naphthalene-2-sulfonic Acid [3-(4-Methylpiperazin-1-yl)phenyl]amide | CN1CCN(CC1)C=1C=C(C=CC1)NS(=O)(=O)C1=CC2=CC=CC=C2C=C1 | C21H23N3O2S
